US09403798B2
1-(4-Chlorobenzyl)-4-{[3-(4-fluorophenyl)-2,3-dihydroxycyclopentyl]amino}-1,3,5-triazin-2(1H)-one
To an acetone (2.0 mL)-water (0.20 mL) solution of 1-(4-chlorobenzyl)-4-{[3-(4-fluorophenyl)cyclopent-2-en-1-yl]amino}-1,3,5-triazin-2(1H)-one (100 mg, 0.252 mmol) synthesized in Synthesis Example 121, immobilized osmium tetraoxide (32.0 mg, 0.0126 mmol, osmium content: 9.4%) was added and the resultant mixture was stirred at room temperature for 3 hours. Then, to the reaction solution, 4-methylmorpholine N-oxide (44.3 mg, 0.378 mmol) was added and the resultant mixture was stirred further for 3 days. After the completion of the reaction, to the reaction solution, saturated sodium thiosulfate aqueous solution was added and extraction with ethyl acetate from the reaction solution was performed. The organic layer was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform-ethyl acetate) to obtain the title compound (15.8 mg, yield: 12%).

reactant | acetone | 2.0 mL | CC(=O)C | C3H6O
reactant | 1-(4-chlorobenzyl)-4-{[3-(4-fluorophenyl)cyclopent-2-en-1-yl]amino}-1,3,5-triazin-2(1H)-one | 0.252 mmol, 100 mg | ClC1=CC=C(CN2C(N=C(N=C2)NC2C=C(CC2)C2=CC=C(C=C2)F)=O)C=C1 | C21H18ClFN4O
reactant | 4-methylmorpholine N-oxide | 0.378 mmol, 44.3 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 0.20 mL | O | H2O
catalyst | osmium tetraoxide | 0.0126 mmol, 32.0 mg | [Os](=O)(=O)(=O)=O
product | 1-(4-Chlorobenzyl)-4-{[3-(4-fluorophenyl)-2,3-dihydroxycyclopentyl]amino}-1,3,5-triazin-2(1H)-one | 15.8 mg, yield: 12% | ClC1=CC=C(CN2C(N=C(N=C2)NC2C(C(CC2)(O)C2=CC=C(C=C2)F)O)=O)C=C1 | C21H20ClFN4O3
